US07309699B2
3-[(5-bromopyridin-2-yl)oxy]quinuclidine
3-Hydroxy quinuclidine (Aldrich, 3.2 g, 25 mmol) in DMF (anhydrous, 30 mL) was treated with NaH (Aldrich, 99%, 1.2 g, 50 mmol) at ambient temperature for 1 hour. The mixture was then treated with 2-chloro-5-bromopyridine (7.1 g, 30 mmol) and stirred at 100° C. for 6 hours. The mixture reaction was treated with Na2CO3 (2M, 10 mL) at 10° C. and extracted with ethyl acetate (2×50 mL). The extracts were combined and concentrated under reduced pressure. The title compound was purified by chromatography (SiO2, CH2Cl2:MeOH:NH3.H2O, 90:10:2, Rf. 0.20) as oil (5.3 g, yield, 75%). 1H NMR (MeOH-d4, 300 MHz) δ 1.46-1.58 (m, 1H), 1.60-1.88 (m, 2H), 1.96-2.10 (m, 1H), 2.24-2.30 (m, 1H), 2.72-2.98 (m, 5H), 3.42-3.46 (m, 1H), 5.00-5.08 (m, 1H), 6.75 (d, J=8.8 Hz, 1H), 7.77 (dd, J=8.9, 2.4 Hz, 1H), 8.16 (d, J=2.7, 1H) ppm. MS (DCl/NH3) m/z 283 (M+H)+, 285 (M+H)+.

reactant | 3-Hydroxy quinuclidine | 25 mmol, 3.2 g | OC1CN2CCC1CC2 | C7H13NO
reactant | NaH | 50 mmol, 1.2 g | [H-].[Na+]
reactant | 2-chloro-5-bromopyridine | 30 mmol, 7.1 g | ClC1=NC=C(C=C1)Br | C5H3BrClN
reactant | Na2CO3 | 2M, 10 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-[(5-bromopyridin-2-yl)oxy]quinuclidine | BrC=1C=CC(=NC1)OC1CN2CCC1CC2 | C12H15BrN2O
